US07378432B2
Preparation of 3-(aminomethyl)benzyl alcohol:
A solution of 3-(hydroxymethyl)benzonitrile in THF was slowly added to a refluxing solution of LiAlH4 in THF with vigorous stirring, maintained under nitrogen atmosphere. The solution was heated at reflux overnight and water was thereafter slowly added dropwise to quench the reaction (until no further evolution of H2 was apparent). The THF was evaporated under reduced pressure and ether/acidified water was added. The ether phase was discarded. The aqueous phase was washed with ether and the organic phase was discarded. NaOH was added until the pH of the aqueous phase reached pH 7. The solution was extracted with THF three times, dried over MgSO4 and evaporated under reduced pressure to furnish a slightly yellow residue which was purified by chromatography on a silica gel column using a gradient eluent starting from ethyl acetate and ending with a mixture of 1:1 ethyl acetate:MeOH), to give the intermediate in a 40% yield.

reactant | 3-(hydroxymethyl)benzonitrile | OCC=1C=C(C#N)C=CC1 | C8H7NO
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 3-(aminomethyl)benzyl alcohol | 40% yield | NCC=1C=C(CO)C=CC1 | C8H11NO
